US08242125B2
130-C. 1-Methyl-5-(2,2,2-trifluoro-1-methoxy-1-methyl-ethyl)-1H-pyrazol-3-ylamine
A solution of potassium hydroxide (280 mg, 5 mmol) in water (6 mL) and ethanol (6 mL) is added to a slurry of hydroxylamine hydrochloride (700 mg, 10 mmol) in ethanol (9 mL). Then 3-(2,5-dimethyl-pyrrol-1-yl)-1-methyl-5-(2,2,2-trifluoro-1-methoxy-1-methyl-ethyl)-1H-pyrazole (500 mg, 1.7 mmol) is added and the mixture is refluxed for 24 hours. At this point the contents of the flask are concentrated under reduced pressure and the residue is partitioned in water and DCM and separated. The water layer is extracted with DCM and the organic layers are combined and concentrated to give the crude title compound. MS (ESI) m/z 224.2 (M+1).

reactant | potassium hydroxide | 5 mmol, 280 mg | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 10 mmol, 700 mg | Cl.NO
reactant | 3-(2,5-dimethyl-pyrrol-1-yl)-1-methyl-5-(2,2,2-trifluoro-1-methoxy-1-methyl-ethyl)-1H-pyrazole | 1.7 mmol, 500 mg | CC=1N(C(=CC1)C)C1=NN(C(=C1)C(C(F)(F)F)(C)OC)C | C14H18F3N3O
solvent | water | 6 mL | O | H2O
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | 1-Methyl-5-(2,2,2-trifluoro-1-methoxy-1-methyl-ethyl)-1H-pyrazol-3-ylamine | CN1N=C(C=C1C(C(F)(F)F)(C)OC)N | C8H12F3N3O
